US05824691
Sodium borohydride (0.46 g) was added to a solution of methyl 3-(2-formylpyrrol-1-yl)-4-hydroxybenzoate (3.0 g) in tetrahydrofuran (30 ml) and the mixture was stirred for 1 hour at ambient temperature. The reaction mixture was added to the mixture of ethyl acetate and water and adjusted to pH 7.5 with 6N-hydrochloric acid. The separated organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo to give methyl 4-hydroxy-3-(2-hydroxymethylpyrrol-1-yl)benzoate (2.54 g).

reactant | Sodium borohydride | 0.46 g | [BH4-].[Na+]
reactant | methyl 3-(2-formylpyrrol-1-yl)-4-hydroxybenzoate | 3.0 g | C(=O)C=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1O | C13H11NO4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | methyl 4-hydroxy-3-(2-hydroxymethylpyrrol-1-yl)benzoate | 2.54 g | OC1=C(C=C(C(=O)OC)C=C1)N1C(=CC=C1)CO | C13H13NO4
